US04305890
Isolation of sodium 1,1,1-trichloro-3-methyl-2-butyl carbonate (compound 9)
A 10 ml flask was charged with isobutyraldehyde (4.46 mmol), sodium trichloroacetate (4.9 mmol) and N,N-dimethylformamide (2 ml). After 2 minutes' mixing and standing for one hour the flask contained a thick slurry, which was poured out into water-free diethyl ether (100 ml). After decanting the solution the solid material was separated by centrifugation and the separated solid material was dried for 1 hour at 40° C. and 80 Pa. The dried material consisted of the title carbonate and showed the following infrared absorptions (2.5 mg carbonate in 300 mg potassium bromide): medium 2880 cm-1 ; very strong 1715 cm-1, very strong 1465 cm-1 ; strong 1310 cm-1 ; strong 1080 cm-1, medium 970 cm-1 ; strong 840 cm-1 and strong 780 cm-1.

reactant | isobutyraldehyde | 4.46 mmol | C(C(C)C)=O | C4H8O
reactant | sodium trichloroacetate | 4.9 mmol | ClC(C(=O)[O-])(Cl)Cl.[Na+]
reactant | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
reactant | water | 100 ml | O | H2O
product | sodium 1,1,1-trichloro-3-methyl-2-butyl carbonate | C(OC(C(Cl)(Cl)Cl)C(C)C)([O-])=O.[Na+] | InChI=1S/C6H9Cl3O3.Na/c1-3(2)4(6(7,8)9)12-5(10)11;/h3-4H,1-2H3,(H,10,11);/q;+1/p-1
